M1a 2 inp 1 1 NMOS W={W1} L={L1}
M1b out inn 1 1 NMOS W={W1} L={L1}
M2a 2 2 VDD VDD PMOS W={W2} L={L2}
M2b out 2 VDD VDD PMOS W={W2} L={L2}
M3a 3 3 0 0 NMOS W={W3} L={L3}
M3b 1 3 0 0 NMOS W={W3} L={L3}

CL out 0 {CL}
Ib VDD 3 {2*Ib}
VDD VDD 0 {VDD}
Vic icm 0 {Vic}
Vid idm 0 DC={Vos} AC=1
Einp inp icm idm 0 0.5
Einn inn icm idm 0 -0.5
